US06090836
A solution of 7-cyclopropylmethyl-3-phenyl-6-hydroxybenz-[4,5]-isoxazole (0.25 grams) in 2-butanone (3.0 mL) was treated with 1,3-dibromopropane (0.48 mL) and potassium carbonate (0.50 grams). The mixture was refluxed for 4 hours. The reaction mixture was partitioned between isopropyl acetate and pH 4 buffer. The organic was washed once with water, then dried over magnesium sulfate. The organic was filtered and evaporated to an oil which was flitered through a silica gel plug using methylene chloride and hexane (1:2) to give 7-cyclopropylmethyl-3-phenyl-6-(3-bromopropyloxy)benz-[4,5]-isoxazole. A solution of 3-chloro-4-hydroxyphenylacetic acid methyl ester (42.0 mg) in DMF (1.0 mL) was treated with potassium carbonate (26 mg) and this mixture was stirred for 0.5 hours. Then 7-cyclopropylmethyl-3-phenyl-6-(3-bromopropyloxy)benz-[4,5]-isoxazole was added and the mixture was stirred over night. The reaction mixture was partitioned between ethyl acetate and 1 M HCl solution. The organic was dried over sodium sulfate and filtered. The solvent was removed in vacuo and the residue was chromatographed on silica gel using methlene chloride and hexane (1:1) to give an oil. A solution of methyl 3-chloro-4-(3-(3-phenyl-7-cyclopropylmethyl-6-benz-[4,5]-isoxazoloxy)-butyloxy)phenylacetic acid (0.04 grams) in methanol (1.5 mL) was treated with a solution of lithium hydroxide in water (1.01 M; 0.1 mL). The reaction was refluxed 1 hour. The reaction mixture was partitioned between isopropyl acetate and 0.1N HCl. The organic was dried over magnesium sulfate, filtered and concentrated to a solid. The solid was suspended in methylene chloride/cyclohexane (1:1; 2 mL). The mixture was refluxed briefly and cooled to 0° C. The title compound was isolated by filtration.

reactant | 7-cyclopropylmethyl-3-phenyl-6-hydroxybenz-[4,5]-isoxazole | 0.25 grams | C1(CC1)CC1=C(C=CC=2C(=NOC21)C2=CC=CC=C2)O | C17H15NO2
reactant | 1,3-dibromopropane | 0.48 mL | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 0.50 grams | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 3.0 mL | CC(CC)=O | C4H8O
product | 7-cyclopropylmethyl-3-phenyl-6-(3-bromopropyloxy)benz-[4,5]-isoxazole | C1(CC1)CC1=C(C=CC=2C(=NOC21)C2=CC=CC=C2)OCCCBr | C20H20BrNO2
